US08304425B2
1-[(3R,4R)-4-(1H-indol-3-yl)-pyrrolidin-3-yl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline was dissolved in THF (150 mL) and di-tert-butyl dicarbonate (5.17 g, 23.7 mmol) and DIPEA (11.8 mL, 67.8 mmol) added. The mixture was then stirred at room temperature for 16 h. The solvent was removed under vacuum and the residue purified by flash column chromatography (SiO2, eluent: 2% EtOAc in DCM). The resulting solid was recrystallized from DCM/EtOAc, yielding (3R,4R)-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a white solid (6.09 g, 61%). M.p.=239-240° C.; 1H NMR (400 MHz, DMSO-d6) δ: 10.81 (s, 1H), 7.56 (dd, J=8.0 and 4.8 Hz, 1H), 7.39 (d, J=8.0 Hz, 1H), 7.28 (d, J=8.0 Hz, 1H), 7.22-7.18 (m, 2H), 7.02 (t, J=7.2 Hz, 1H), 6.92 (m, 1H), 6.84 (m, 1H), 6.77 (d, J=7.2 Hz, 1H), 4.03-3.88 (m, 6H), 3.44-3.29 (m, 2H), 2.84 (t, J=6.0 Hz, 2H), 2.04 (m, 2H), 1.42 (s, 9H). LCMS: m/e 386.12 [M-56].

reactant | 1-[(3R,4R)-4-(1H-indol-3-yl)-pyrrolidin-3-yl]-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | N1C=C(C2=CC=CC=C12)[C@H]1[C@@H](CNC1)C1=CN2CCCC3=CC=CC1=C23 | C23H23N3
reactant | di-tert-butyl dicarbonate | 23.7 mmol, 5.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 67.8 mmol, 11.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (3R,4R)-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.09 g, 61% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CNC2=CC=CC=C12)C1=CN2CCCC3=CC=CC1=C23 | C28H31N3O2
